US05700801
b) N-Methyl-N-(4-piperidinyl)-glycine methyl ester dihydrochloride
Prepared from N-[1-benzyl-4-piperidinyl]-N-methyl-glycine methyl ester dihydrochloride by exhaustive hydrogenation over palladium on charcoal (10%).

reactant | N-[1-benzyl-4-piperidinyl]-N-methyl-glycine methyl ester dihydrochloride | Cl.Cl.COC(CN(C)C1CCN(CC1)CC1=CC=CC=C1)=O
catalyst | palladium on charcoal | [Pd] | Pd
product | N-Methyl-N-(4-piperidinyl)-glycine methyl ester dihydrochloride | Cl.Cl.COC(CN(C1CCNCC1)C)=O | InChI=1S/C9H18N2O2.2ClH/c1-11(7-9(12)13-2)8-3-5-10-6-4-8;;/h8,10H,3-7H2,1-2H3;2*1H
